US07250518B2
N-(4-Cyanomethyl-2-fluoro-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide of Formula (6.0.48):
N-(4-Carbamoylmethyl-2-fluoro-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide (0.290 g) was combined with phosphorous oxychloride (0.4 mL) neat, under nitrogen. The reaction mixture was heated to 90° C. for 2 h and then allowed to cool to ambient temperature. The reaction mixture was quenched with saturated aq. sodium carbonate (20 mL) and extracted with ethyl acetate (5×40 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography (ethyl acetate:hexanes=1:1) to yield the pure title compound (0.110 g).

reactant | N-(4-Carbamoylmethyl-2-fluoro-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide | 0.290 g | C(N)(=O)CC1=CC(=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1)F | C21H17F2N3O3
reactant | phosphorous oxychloride | 0.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(4-Cyanomethyl-2-fluoro-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide | 0.110 g | C(#N)CC1=CC(=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1)F | C21H15F2N3O2
